US06294558B1
4-(4-Bromophenyl)-5-[3-fluoro-4-(methylsulfonyl)phenyl]-2-methyl-1,3-oxazole (Step 6)
The mixture of 2-acetoxy-1-(4-bromophenyl)-2-[3-fluoro-4-(methylsulfonyl)phenyl]-1-ethanone (743.7 mg, 1.733 mmol) and ammonium acetate (333.9 mg, 4.333 mmol) in acetic acid (15 mL) was heated at reflux temperature for 2.5 hours, and cooled down to room temperature. The mixture was evaporated, diluted with ethyl acetate (100 mL), washed with saturated NaHCO3 solution (100 mL×2), water (50 mL), brine (50 mL), dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate/hexane (1/2) to provide the subtitle compound (447.1 mg, 63% yield) as a solid.

reactant | 2-acetoxy-1-(4-bromophenyl)-2-[3-fluoro-4-(methylsulfonyl)phenyl]-1-ethanone | 1.733 mmol, 743.7 mg | C(C)(=O)OC(C(=O)C1=CC=C(C=C1)Br)C1=CC(=C(C=C1)S(=O)(=O)C)F | C17H14BrFO5S
reactant | ammonium acetate | 4.333 mmol, 333.9 mg | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 4-(4-Bromophenyl)-5-[3-fluoro-4-(methylsulfonyl)phenyl]-2-methyl-1,3-oxazole | 447.1 mg, 63% yield | BrC1=CC=C(C=C1)C=1N=C(OC1C1=CC(=C(C=C1)S(=O)(=O)C)F)C | C17H13BrFNO3S
